US07812155B2
25 g of ethoxyethanol was placed in a round bottom flask provided with a stirrer piece therein, which was connected to a nitrogen bubbler to replace the air in the flask by dry nitrogen. 141 ml of methylene chloride was added and 33 ml of 2,6-lutidine was further added, followed by cooling down to −10 to 0° C., dropping 57 ml of trifluoromethanesulfonic acid anhydride in one hour and continuing agitation under the cooling conditions for one hour. 100 ml of distilled water was added to the reaction solution, and an organic phase was separated, washed with 100 ml of distilled water and dried with anhydrous sodium sulfate, followed by removing the sodium sulfate by filtration and distilling off the solvent under reduced pressure. The resulting residue was distilled under a reduced pressure of 150 Pa at 30° C. to obtain 57 g of a 2-ethoxyethyl triflate fraction.

reactant | ethoxyethanol | 25 g | C(C)OC(C)O | C4H10O2
reactant | methylene chloride | 141 ml | C(Cl)Cl | CH2Cl2
reactant | 2,6-lutidine | 33 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic acid anhydride | 57 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | water | 100 ml | O | H2O
product | 2-ethoxyethyl triflate | 57 g | O(S(=O)(=O)C(F)(F)F)CCOCC | C5H9F3O4S
